* EMI-02A coupled-element oracle: finite source edge and positive coupling.
V1 p 0 DC 0 PULSE(0 1 1u 1u 1u 1m 2m)
R1 p a 2
L1 a 0 2m
V2 q 0 DC 0 PULSE(0 -0.3 2u 1u 1u 1m 2m)
R2 q b 3
L2 b 0 8m
K1 L1 L2 0.995
.TRAN 5n 200u
.END
